US03980797
A solution of 18.4 g of 2,3,4,5,-tetrahydro-1H-1,4-diazepino[1,2-a]indole (m.p. 75°-77°) in 200 ml of acetic acid and 45 ml of 2N hydrochloric acid is hydrogenated, at 60° and normal pressure, with 13 g of 5% of palladium/barium sulphate. The mixture is cooled, filtered and evaporated to give 2,3,4,5,11,11a-hexahydro-1H-1,4-diazepino[1,2-a]indole. Hydrochloride, m.p. 234° (from ethanol).

reactant | 2,3,4,5,-tetrahydro-1H-1,4-diazepino[1,2-a]indole | 18.4 g | C1NCCCN2C1=CC=1C=CC=CC21 | C12H14N2
reactant | hydrochloric acid | 2N, 45 ml | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium barium sulphate | 13 g | [Pd].S(=O)(=O)([O-])[O-].[Ba+2]
product | 2,3,4,5,11,11a-hexahydro-1H-1,4-diazepino[1,2-a]indole. Hydrochloride | Cl.C1NCCCN2C1CC=1C=CC=CC21 | InChI=1S/C12H16N2.ClH/c1-2-5-12-10(4-1)8-11-9-13-6-3-7-14(11)12;/h1-2,4-5,11,13H,3,6-9H2;1H
